US04698093
Step A: Preparation of dimethyl 3-(cyclopropylamino)-2-pentenedioate.
This compound was prepared as described in Step A of Example 94: 190.6 g (1.09 mol) of dimethyl acetonedicarboxylate and 75 g (1.3 mol) of cyclopropyl-amine in 200 ml of ether were reacted affording 194 g of clear oil. Trituration with petroleum ether gave 171.5 g (74%) of the enamine diester as a white solid: mp 64°-70° C. Crystallization from cyclohexane afforded an analytical sample; mp 73°-75° C.

reactant | dimethyl acetonedicarboxylate | 1.09 mol, 190.6 g | COC(=O)CC(=O)CC(=O)OC | C7H10O5
reactant | cyclopropyl-amine | 1.3 mol, 75 g | C1(CC1)N | C3H7N
solvent | ether | 200 ml | CCOCC | C4H10O
product | dimethyl 3-(cyclopropylamino)-2-pentenedioate | 194 g | C1(CC1)NC(=CC(=O)OC)CC(=O)OC | C10H15NO4
